US04698094
1.2 g of ethyl thioglycolate and 1.2 g of triethylamine were dissolved in 20 ml of N,N-dimethylacetamide. To the thus obtained solution was dropwise added 3.5 g of 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetyl chloride at 10° C. After completion of the dropwise addition, the reaction was allowed to proceed at room temperature for 3 hours to complete reaction. After completion of the reaction, 50 ml of water was added to the reaction mixture, followed by extraction twice with 30 ml portions of ether. The ether layer was washed with water and dried over anhydrous sodium sulfate, and the ether was distilled off under reduced pressure to obtain a crude product. The obtained crude product was subjected to purification by the silica gel column chromatography to obtain 3.5 g of S-ethoxycarbonylmethyl 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylthioacetate.

reactant | ethyl thioglycolate | 1.2 g | C(CS)(=O)OCC | C4H8O2S
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylacetyl chloride | 3.5 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)Cl)C=CC(=C1)C(F)(F)F | C15H9Cl2F3O2
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | S-ethoxycarbonylmethyl 3-(2'-chloro-4'-trifluoromethylphenoxy)phenylthioacetate | 3.5 g | ClC1=C(OC=2C=C(C=CC2)CC(=O)SCC(=O)OCC)C=CC(=C1)C(F)(F)F | C19H16ClF3O4S
